US09340549B2
(S)-tert-butyl 4-((2-hydroxy-2-methyl-1-phenylpropyl)amino)piperidine-1-carboxylate
To a flask charged with boc-4-piperidone (2.412 g, 12.10 mmol, Alfa-Aesar) was added DCM (60.5 mL), acetic acid (0.901 mL, 15.74 mmol), (S)-1-amino-2-methyl-1-phenylpropan-2-ol (2 g, 12.10 mmol, BOC Scientific) and sodium triacetoxyborohydride (3.59 g, 16.95 mmol) respectively. The resulting orange suspension was stirred at room temperature for 3 h. LCMS indicated good conversion to desired product. To the mixture was added saturated NaHCO3 and K2CO3 pellets. The mixture was transferred to a separatory funnel and extracted with DCM (2×). The combined organics were dried with Na2SO4, filtered, and dried under reduced pressure. The material thus obtained was used without further purification.

reactant | boc-4-piperidone | 12.10 mmol, 2.412 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | acetic acid | 15.74 mmol, 0.901 mL | C(C)(=O)O | C2H4O2
reactant | (S)-1-amino-2-methyl-1-phenylpropan-2-ol | 12.10 mmol, 2 g | N[C@H](C(C)(O)C)C1=CC=CC=C1 | C10H15NO
reactant | sodium triacetoxyborohydride | 16.95 mmol, 3.59 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 60.5 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 4-((2-hydroxy-2-methyl-1-phenylpropyl)amino)piperidine-1-carboxylate | OC([C@H](C1=CC=CC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)(C)C | C20H32N2O3
